US05238954
A suspension of 11.2 g of the above prepared 8-bromomethyl-2-(3-fluorophenyl)-4H-benzopyran-4-one, 3.2 g of potassium cyanide, 5.7 g of potassium iodide and 1.3 g of aliquot 336 (tricaprylylmethylammonium chloride) in 45 ml of water and 485 ml of toluene was stirred for 25.5 hours at 73° C., cooled, diluted with water and extracted with methylene chloride. The solvents in the organic layer were concentrated in vacuo and the resulting residue chromatographed over silica gel with 3-5% acetone in a 1:1 mixture of methylene chloride and hexane to give 4.6 g of 8-cyanomethyl-2-(3-fluorophenyl)-4H-benzopyran-4-one. IR 1643 cm-1 ; NMR (CDCl3): δ 4.06 (2, 1H), 6.8 (s, 1H), 7.0-7.85 (m, 6H), 8.2 (m, 1H).

reactant | 8-bromomethyl-2-(3-fluorophenyl)-4H-benzopyran-4-one | BrCC1=CC=CC=2C(C=C(OC21)C2=CC(=CC=C2)F)=O | C16H10BrFO2
reactant | potassium cyanide | 3.2 g | [C-]#N.[K+]
reactant | potassium iodide | 5.7 g | [I-].[K+]
reactant | tricaprylylmethylammonium chloride | [Cl-].C(CCCCCCC)(=O)C(C(CCCCCCC)=O)(C(CCCCCCC)=O)[NH3+]
solvent | water | 45 ml | O | H2O
solvent | toluene | 485 ml | C1(=CC=CC=C1)C | C7H8
product | 8-cyanomethyl-2-(3-fluorophenyl)-4H-benzopyran-4-one | 4.6 g | C(#N)CC1=CC=CC=2C(C=C(OC21)C2=CC(=CC=C2)F)=O | C17H10FNO2
